US08217035B2
N-(6-(2-aminopyrimidin-5-yl)-2-morpholinopyrimidin-4-yl)quinolin-3-amine
Pd(OAc)2, BINAP, cesium carbonate, THF (0.8 mL) were mixed with 5-(6-chloro-2-morpholinopyrimidin-4-yl)pyrimidin-2-amine (1 eq) and quinolin-3-amine (2 eq). The mixture was heated under microwave irradiation for 10 minutes at 110° C. The solution was filtered and concentrated under reduced pressure. LC/MS (m/z): 401.4 (MH+).

reactant | BINAP | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-(6-chloro-2-morpholinopyrimidin-4-yl)pyrimidin-2-amine | 1 eq | ClC1=CC(=NC(=N1)N1CCOCC1)C=1C=NC(=NC1)N | C12H13ClN6O
reactant | quinolin-3-amine | 2 eq | N1=CC(=CC2=CC=CC=C12)N | C9H8N2
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | THF | 0.8 mL | C1CCOC1 | C4H8O
product | N-(6-(2-aminopyrimidin-5-yl)-2-morpholinopyrimidin-4-yl)quinolin-3-amine | NC1=NC=C(C=N1)C1=CC(=NC(=N1)N1CCOCC1)NC=1C=NC2=CC=CC=C2C1 | C21H20N8O
